US07601744B2
To a mixture of (R)-2-methyl-CBS-oxazaborolidine (1.0 M in toluene, 1.5 mL, 1.5 mmol, 0.1 equiv.) in tetrahydrofuran (10 mL) under a nitrogen atmosphere at −25° C. was added a solution of borane (1.0 M in tetrahydrofuran, 9.0 mL, 9.0 mmol, 0.6 equiv.). A solution of 3-chloro-1-(3-chloro-5-fluorophenyl)propan-1-one (3.32 g, 15.0 mmol) in tetrahydrofuran (10 mL) was added dropwise over a period of 25 min, and the reaction mixture was stirred for an additional 30 min at −25° C. Methanol (10 mL) was added slowly to quench the reaction, followed by the slow addition of hydrogen chloride solution (1.0 M in diethyl ether, 20 mL) at −25° C. All volatiles were removed under reduced pressure. Hexane (100 mL) was added, and the white salt of the chiral auxiliary was filtered through a pad of celite and washed with hexane (2×25 mL). The filtrate was concentrated under reduced pressure to give (1S)-3-chloro-1-(3-chloro-5-fluorophenyl)propan-1-ol as viscous, colorless oil (Yield: 3.34 g (100%). Chiral purity: 93.4%, [□]D25=−10.3° (c=10 mg/mL, CHCl3)). This material was dissolved in 70 mL of methanol/acetonitrile. 500 □L of the resulting solution was repetitively injected onto the Supercritical Fluid Chromatography instrument, and the baseline resolved enantiomers were separately collected using the conditions described below. The chiral purity of each enantiomer was determined under the same Supercritical Fluid Chromatography conditions using a Chiralpak AD-H 5□m, 250 mm×4.6 mm ID column at 2.0 mL/min flow rate using Analytical Supercritical Fluid Chromatography (Berger Instruments, Inc. Newark, Del.). The chiral purity of the product was found to be 99.8%.

reactant | (R)-2-methyl-CBS-oxazaborolidine | 1.5 mmol, 1.0 M, 1.5 mL, 0.1 equiv. | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | borane | 9.0 mmol, 1.0 M, 9.0 mL, 0.6 equiv. | B | BH3
reactant | 3-chloro-1-(3-chloro-5-fluorophenyl)propan-1-one | 15.0 mmol, 3.32 g | ClCCC(=O)C1=CC(=CC(=C1)F)Cl | C9H7Cl2FO
reactant | hydrogen chloride | 1.0 M, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Methanol | 10 mL | CO | CH4O
product | (1S)-3-chloro-1-(3-chloro-5-fluorophenyl)propan-1-ol | ClCC[C@H](O)C1=CC(=CC(=C1)F)Cl | C9H9Cl2FO
